US06719520B2
3-(2-Methoxyethylamino)-4-(4-iodophenyl)-1H-pyrrole-2,5-dione
A solution of 3-(3-fluoro-4-methylphenylamino)-4-(4-iodophenyl)-1H-pyrrole-2,5-dione (Example A705, 126 mg, 0.3 mmol) and 2-methoxyethylazine (0.2 mL, 2,3 mmol) in DMF (2 mL) was stirred at room temperature for 113 hours then diluted with hydrochloric acid (0.5M, 50 mL) and extracted with ethyl acetate (50 mL). The ethyl acetate solution was washed with water (2×50 mL) and brine (50 mL), dried over magnesium sulphate and evaporated. The residue was chromatographed on silica gel using dichloromethane-diethyl ether (99:1 v/v) as eluent to afford the title compound, a solid.

reactant | 3-(3-fluoro-4-methylphenylamino)-4-(4-iodophenyl)-1H-pyrrole-2,5-dione | 0.3 mmol, 126 mg | FC=1C=C(C=CC1C)NC=1C(NC(C1C1=CC=C(C=C1)I)=O)=O | C17H12FIN2O2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | hydrochloric acid | 0.5M, 50 mL | Cl | ClH
product | 3-(2-Methoxyethylamino)-4-(4-iodophenyl)-1H-pyrrole-2,5-dione | COCCNC=1C(NC(C1C1=CC=C(C=C1)I)=O)=O | C13H13IN2O3
